US05273975
Lithium aluminum hydride (1.5 g) was added to a stirred solution of 3-(dipropylamino)-1,2,3,4-tetrahydro-2-oxo-8-quinolinecarboxamide (0.75 g) in THF (125 mL) and the solution was refluxed for 2 days. The solution was cooled and excess hydride was destroyed by addition of methanol (20 mL) and the solvents were removed under reduced pressure. The residue was partitioned between ethyl acetate (400 mL) and water (15 mL). The ethyl acetate was decanted from the inorganic solids and the solvent removed under reduced pressure. The residual oil was dissolved in chloroform and chromatographed on silica gel. Elution of the column with 5% methanol:chloroform gave 0.40 g of 1,2,3,4-tetrahydro-8-(aminomethyl)-N,N-dipropyl-3-quinolinamine.

reactant | Lithium aluminum hydride | 1.5 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 3-(dipropylamino)-1,2,3,4-tetrahydro-2-oxo-8-quinolinecarboxamide | 0.75 g | C(CC)N(C1C(NC2=C(C=CC=C2C1)C(=O)N)=O)CCC | C16H23N3O2
solvent | THF | 125 mL | C1CCOC1 | C4H8O
product | 1,2,3,4-tetrahydro-8-(aminomethyl)-N,N-dipropyl-3-quinolinamine | 0.40 g | NCC=1C=CC=C2CC(CNC12)N(CCC)CCC | C16H27N3
